US08193199B2
To a stirred solution of (1S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)-quinolin-3-yl)ethanamine (9 mg, 30 μmol) in 1-butanol (1.5 mL) was added huenig's base (6 μl, 35 μmol) and 6-chloropurine (5 mg, 30 μmol). The reaction was heated to 130° C. for 16 hours and then cooled to room temperature. The crude reaction mixture was purified by reverse phase HPLC (gradient: 20% water in acetonitrile to 85% water in acetonitrile) to give N—((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine. 1H NMR (400 MHz, MeOH-d4) δ ppm 8.62 (1H, s), 8.05 (1H, s), 7.83-7.89 (2H, m), 7.53-7.57 (1H, m), 2.89 (3H, s), 1.83 (3H, d, J=6.6 Hz). Mass Spectrum (ESI) m/e=423.1 (M+1).

reactant | (1S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)-quinolin-3-yl)ethanamine | 30 μmol, 9 mg | ClC=1C=CC=C2C=C(C(=NC12)C=1SC(=NN1)C)[C@H](C)N | C14H13ClN4S
reactant | huenig's base | 35 μmol, 6 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloropurine | 30 μmol, 5 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | 1-butanol | 1.5 mL | C(CCC)O | C4H10O
product | N—((S)-1-(8-chloro-2-(5-methyl-1,3,4-thiadiazol-2-yl)quinolin-3-yl)ethyl)-9H-purin-6-amine | ClC=1C=CC=C2C=C(C(=NC12)C=1SC(=NN1)C)[C@H](C)NC1=C2N=CNC2=NC=N1 | C19H15ClN8S
